US07435837B2
Treatment of (7-bromo-2,3-dihydro-1-benzofuran-2-yl)methyl 4-methylbenzenesulfonate (4.0 g, 10.44 mmol) with 2-(trifluoromethyl)phenylboronic acid (2.57 g, 13.6 mmol), dichlorobis(tri-o-tolylphosphine)-palladium(II) (0.426 g, 0.542 mmol), and potassium carbonate (3.61 g, 26.09 mmol) generally according to the procedure described for Intermediate 37 provided (±)-{7-[2-(trifluoromethyl)phenyl]-2,3-dihydro-1-benzofuran-2-yl}methyl 4-methylbenzenesulfonate. Treatment of the tosylate with sodium azide (1.31 g, 20.25 mmol) generally according to the procedure described for Intermediate 98 afforded (±)-2-(azidomethyl)-7-[2-(trifluoromethyl)phenyl]-2,3-dihydro-1-benzofuran. Treatment of the azide with palladium on carbon (0.160 g, 10 wt. %) generally according to the procedure described for Example 1 provided 1.05 g (65%) of (±)-1-{7-[2-(trifluoromethyl)phenyl]-2,3-dihydro-1-benzofuran-2-yl}methanamine as a white solid, hydrochloride salt. mp 204-205° C.; Anal. calcd. for C16H14F3NOHCl: C, 58.25; H, 4.59; N, 4.25. Found: C, 57.57; H, 4.52; N, 4.08.

reactant | (7-bromo-2,3-dihydro-1-benzofuran-2-yl)methyl 4-methylbenzenesulfonate | 10.44 mmol, 4.0 g | CC1=CC=C(C=C1)S(=O)(=O)OCC1OC2=C(C1)C=CC=C2Br | C16H15BrO4S
reactant | 2-(trifluoromethyl)phenylboronic acid | 13.6 mmol, 2.57 g | FC(C1=C(C=CC=C1)B(O)O)(F)F | C7H6BF3O2
reactant | potassium carbonate | 26.09 mmol, 3.61 g | C([O-])([O-])=O.[K+].[K+]
reactant | (±)-{7-[2-(trifluoromethyl)phenyl]-2,3-dihydro-1-benzofuran-2-yl}methyl 4-methylbenzenesulfonate | CC1=CC=C(C=C1)S(=O)(=O)OCC1OC2=C(C1)C=CC=C2C2=C(C=CC=C2)C(F)(F)F | C23H19F3O4S
reactant | tosylate | S(=O)(=O)([O-])C1=CC=C(C)C=C1
reactant | sodium azide | 20.25 mmol, 1.31 g | [N-]=[N+]=[N-].[Na+]
reactant | (±)-2-(azidomethyl)-7-[2-(trifluoromethyl)phenyl]-2,3-dihydro-1-benzofuran | N(=[N+]=[N-])CC1OC2=C(C1)C=CC=C2C2=C(C=CC=C2)C(F)(F)F | C16H12F3N3O
reactant | azide | [N-]=[N+]=[N-]
catalyst | palladium on carbon | 0.160 g | [Pd] | Pd
catalyst | dichlorobis(tri-o-tolylphosphine)-palladium(II) | 0.542 mmol, 0.426 g | CC1=C([P](C2=C(C)C=CC=C2)([Pd]([P](C3=C(C)C=CC=C3)(C4=C(C)C=CC=C4)C(C=CC=C5)=C5C)(Cl)Cl)C6=C(C)C=CC=C6)C=CC=C1
product | (±)-1-{7-[2-(trifluoromethyl)phenyl]-2,3-dihydro-1-benzofuran-2-yl}methanamine | 1.05 g, 65% | FC(C1=C(C=CC=C1)C1=CC=CC=2CC(OC21)CN)(F)F | C16H14F3NO
